US05043340
A. 7-[((1-Methylpropoxy)carbonyl)oxy]-2-oxoheptane
11.2 g (0.07 mole) of 6-ketoheptanoic acid was dissolved in 100 ml of dichloromethane and 10 g of N-methylmorpholine was added. The reaction mixture was cooled in an ice bath, stirred and kept under a nitrogen atmosphere. 11.6 g (0.085 mole) of isobutyl chloroformate dissolved in 25 ml of dichloromethane was slowly added over a period of 15 minutes. The reaction mixture was allowed to proceed for one hour. The reaction mixture was evaporated to an oily solid and used in subsequent reactions.

reactant | 6-ketoheptanoic acid | 0.07 mole, 11.2 g | O=C(CCCCC(=O)O)C | C7H12O3
reactant | N-methylmorpholine | 10 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.085 mole, 11.6 g | ClC(=O)OCC(C)C | C5H9ClO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 7-[((1-Methylpropoxy)carbonyl)oxy]-2-oxoheptane | CC(CC)OC(=O)OCCCCCC(C)=O | C12H22O4
